US08003649B2
1-Fluoro-4-isocyanatobenzene (0.026 g, 0.19 mmol) was added to a suspension of 6-(hexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl)-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine (0.05 g, 0.17 mmol) in toluene (1.5 mL). The reaction mixture was heated at 70° C. for 1 hour and evaporated to give an involatile residue. The residue was purified by hplc using a Phenomenex Luna C18 100A column (10μ silica, 21 mm diameter, 150 mm length) eluted with decreasingly polar mixtures of water (containing 0.1% trifluoroacetic acid) and acetonitrile as eluents to give N-(4-fluorophenyl)-2-[3-(trifluoromethyl)-[1,2,4]triazolo[3,4-f]pyridazin-6-yl]-1,3,3a,4,6,6a-hexahydropyrrolo[3,4-c]pyrrole-5-carboxamide (0.0309 g, 42%) as a white solid.

reactant | 1-Fluoro-4-isocyanatobenzene | 0.19 mmol, 0.026 g | FC1=CC=C(C=C1)N=C=O | C7H4FNO
reactant | 6-(hexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl)-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | 0.17 mmol, 0.05 g | C1N(CC2C1CNC2)C=2C=CC=1N(N2)C(=NN1)C(F)(F)F | C12H13F3N6
solvent | toluene | 1.5 mL | C1(=CC=CC=C1)C | C7H8
product | N-(4-fluorophenyl)-2-[3-(trifluoromethyl)-[1,2,4]triazolo[3,4-f]pyridazin-6-yl]-1,3,3a,4,6,6a-hexahydropyrrolo[3,4-c]pyrrole-5-carboxamide | 0.0309 g, 42% | FC1=CC=C(C=C1)NC(=O)N1CC2C(C1)CN(C2)C2=NN1C(C=C2)=NN=C1C(F)(F)F | C19H17F4N7O
